US07378404B2
3-hydroxy-8β-vinyl-estra-1,3,5(10)-trien-17-one
460 mg of 3-methoxy-8β-vinyl-estra-1,3,5(10)-trien-17-one was added to 9.2 g of pyridinium hydrochloride at 180° C. and stirred for 3 hours at the same temperature. Then, it was poured onto ice, the deposited precipitate was filtered off, washed with water and dried. The yield of 2-hydroxy-8β-vinyl-estra-1,3,5(10)-trien-17-one with a melting point of 239-242° C. amounted to 400 mg (90%).

reactant | 3-methoxy-8β-vinyl-estra-1,3,5(10)-trien-17-one | 460 mg | COC1=CC=2CC[C@]3([C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)C=C | C21H26O2
reactant | pyridinium hydrochloride | 9.2 g | Cl.[NH+]1=CC=CC=C1
product | 3-hydroxy-8β-vinyl-estra-1,3,5(10)-trien-17-one | OC1=CC=2CC[C@]3([C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)C=C | C20H24O2
